US07462735B2
4-[2-(2-chlorobenzoylamino)benzoylamino]butanoic acid. (compound 20)
To a suspension of 2.00 g (9.01 mmol) of 4-(2-aminobenzoylamino)butanoic acid in 20 mL of dry methylene chloride, add 8.36 g (77.00 mmol) of trimethylsilyl chloride and allow the reaction to reflux for 5 hours. Then place the flask in an ice bath and add 1.17 g (11.55 mmol) of triethylamine and a solution of 1.35 g (7.70 mmol) of 2-chlorobenzoyl chloride dissolved in 5 mL of dry methylene chloride. Allow the reaction to stir for 30 minutes in an ice bath and 24 hours at room temperature. Eliminate the solvent at low pressure, add 30 ml of 10% NaOH to the crude product and continue stirring the mixture until the oil has completely disappeared. Immediately acidify with concentrated HCl and extract several times with ethyl acetate. Dry the organic phase with MgSO4 anhydrous and eliminate at low pressure. Wash the crude product several times with ether and finally, purify by recrystallization (EtOH/H2O). This yields 1.27 g (36%) of 4-[2-(2-chlorobenzoylamino)benzoylamino]butanoic acid as a brown solid.

reactant | 4-(2-aminobenzoylamino)butanoic acid | 9.01 mmol, 2.00 g | NC1=C(C(=O)NCCCC(=O)O)C=CC=C1 | C11H14N2O3
reactant | trimethylsilyl chloride | 77.00 mmol, 8.36 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 11.55 mmol, 1.17 g | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzoyl chloride | 7.70 mmol, 1.35 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | NaOH | 30 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(2-chlorobenzoylamino)benzoylamino]butanoic acid | ClC1=C(C(=O)NC2=C(C(=O)NCCCC(=O)O)C=CC=C2)C=CC=C1 | C18H17ClN2O4
